US07230031B2
7-(4-benzyloxy-3-isopropylphenoxy)-6-methylindan-4-carbonitrile
4-(4-benzyloxy-3-isopropylphenoxy)-7-iodo-5-methylindane (214 mg), potassium cyanide (60 mg), bis(dibenzylidenacetone)palladium (4 mg), 1,1′-bis(diphenylphosphino) ferrocene (8 mg), and 1-methyl-2-pyrrolidone (2 mL) were stirred under an argon atmosphere at 80° C. overnight. Adding water, the reaction mixture was extracted with ethyl acetate, washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate) to give the title compound (49 mg).

reactant | 4-(4-benzyloxy-3-isopropylphenoxy)-7-iodo-5-methylindane | 214 mg | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C3CCCC3=C(C=C2C)I)C=C1)C(C)C | C26H27IO2
reactant | potassium cyanide | 60 mg | [C-]#N.[K+]
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 8 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1-methyl-2-pyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 7-(4-benzyloxy-3-isopropylphenoxy)-6-methylindan-4-carbonitrile | 49 mg | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C(C=C(C=3CCCC23)C#N)C)C=C1)C(C)C | C27H27NO2
